US05716971
A solution of 4-(2,2-dibromoethenyl)phenol methoxymethyl ether (16.56 g) in THF (350 ml) was cooled to -78° C., to which was added dropwise, under argon atmosphere, a 1.6M n-butyl lithium hexane solution (70 ml). The mixture was stirred for one hour under the same conditions, which was then warmed and stirred for one hour at room temperature. The reaction mixture was cooled with ice, to which was added dropwise trimethylchlorosilane (7.2 ml). The mixture was then stirred for 3 hours while warming up to room temperature, to which was added water to quench the reaction, followed by extraction with ethyl acetate. The organic layer was washed (a saturated aqueous saline solution) and dried (anhydrous magnesium sulfate), then the solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 4-(2-trimethylsilylethynyl)phenol methoxymethyl ether (10.76 g) (Compound B-26). The physical properties are shown in Table 8.

reactant | 4-(2,2-dibromoethenyl)phenol methoxymethyl ether | 16.56 g | COCOC1=CC=C(C=C1)C=C(Br)Br | C10H10Br2O2
reactant | n-butyl lithium hexane | 1.6M, 70 ml | CCCCCC.C(CCC)[Li]
reactant | trimethylchlorosilane | 7.2 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | water | O | H2O
solvent | THF | 350 ml | C1CCOC1 | C4H8O
product | 4-(2-trimethylsilylethynyl)phenol methoxymethyl ether | 10.76 g | COCOC1=CC=C(C=C1)C#C[Si](C)(C)C | C13H18O2Si
